US06855730B2
A mixture of 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (281 mg), 5-bromo-2-oxindole (220 mg), and piperidine (2 drops) in ethanol (2 mL) was stirred at 90° C. for 2 hours. Potassium hydroxide (537 mg) was added and the temperature was increased to 95° C. for 1 hour. The reaction mixture was cooled and concentrated. The residue was dissolved into water and acidified with 2 N hydrochloric acid to pH 2. The precipitate that formed was filtered, washed with water and dried in a vacuum oven overnight to give 411 mg (98%) of 4-(2-carboxyethyl)-3-methyl-5-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid.

reactant | 5-formyl-4-(2-ethoxycarbonylethyl)-3-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 281 mg | C(C)OC(=O)C=1NC(=C(C1C)CCC(=O)OCC)C=O | C14H19NO5
reactant | 5-bromo-2-oxindole | 220 mg | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | Potassium hydroxide | 537 mg | [OH-].[K+]
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(2-carboxyethyl)-3-methyl-5-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-2-carboxylic acid | 411 mg, 98% | C(=O)(O)CCC=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)Br)=O)C(=O)O)C | C18H15BrN2O5
